US04064247
A solution of (R)-3-hydroxymethyl-1,2,3,4-tetrahydroisoquinoline (22.8 g.) in a mixture of sulphuric acid (d = 1.83; 7.9 cc.) and water (50 cc.) is concentrated for 1 hour at 100° C., under reduced pressure (20 mm.Hg) and then for 1 hour at 160° C. The residue crystallises on cooling. (R)-3-Hydroxysulphonyloxymethyl-1,2,3,4-tetrahydroisoquinoline (33.9 g.) is thus obtained in the form of a white crystalline mass melting at 318° C.

reactant | (R)-3-hydroxymethyl-1,2,3,4-tetrahydroisoquinoline | 22.8 g | OC[C@@H]1NCC2=CC=CC=C2C1 | C10H13NO
reactant | sulphuric acid | 7.9 cc | S(O)(O)(=O)=O | H2O4S
solvent | water | 50 cc | O | H2O
product | (R)-3-Hydroxysulphonyloxymethyl-1,2,3,4-tetrahydroisoquinoline | 33.9 g | OS(=O)(=O)OC[C@@H]1NCC2=CC=CC=C2C1 | C10H13NO4S
